US06127361
3.27 g (27.5 mmol) of thionyl chloride was added dropwise to a suspension of cis-4-hydroxy-D-proline (3.00 g, 2.9 mmol) in ethanol (15 ml) and the mixture was refluxed for 2 hours. The mixture was concentrated, acetone was added to the residue and the solution was cooled on ice. The resultant precipitate was filtered and 4.23 g of (2R,4R)-(+)-2-(ethoxycarbonyl)-4-hydroxypyrrolidine hydrochloride was obtained as colorless needles (94.5%).

reactant | thionyl chloride | 27.5 mmol, 3.27 g | S(=O)(Cl)Cl | Cl2OS
reactant | cis-4-hydroxy-D-proline | 2.9 mmol, 3.00 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | (2R,4R)-(+)-2-(ethoxycarbonyl)-4-hydroxypyrrolidine hydrochloride | 4.23 g | Cl.C(C)OC(=O)[C@@H]1NC[C@@H](C1)O | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)6-3-5(9)4-8-6;/h5-6,8-9H,2-4H2,1H3;1H/t5-,6-;/m1./s1
